US07547691B2
(C). Preparation of [2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-carbamic acid tert-butyl ester
Benzo[b]thiophen-6-yl-carbamic acid tert-butyl ester (1.06 g, 4.30 mmol) is dissolved in THF (40 mL) and cooled to −78° C. Lithium diisopropylamine solution (8.5 mL of 2.0 M solution) and triisopropylborate (6.0 mL, 26 mmol) are added. The reaction is stirred at −78° C. for 90 minutes before the cooling bath is removed. After stirring for three hours, 2,4-dichloro-5-methylpyrimidine (0.74 g, 4.5 mmol), 1,1′-bis(diphenylphosphino) ferrocene (120 mg, 0.220 mmol), palladium (II) acetate (50.4 mg, 0.220 mmol), and sodium carbonate (9.5 mL of 2.0 N solution) are added. The reaction is heated at 70° C. for 20 hours. After the reaction solution is cooled to 25° C., water (100 mL) is added. The mixture is extracted with dichloromethane and the extracts are evaporated. The resulting solid is chromatographed on silica gel, eluting with EtOAc in hexanes 5-50%, to give the title compound as a yellow solid (0.32 g, 20% yield).

reactant | Benzo[b]thiophen-6-yl-carbamic acid tert-butyl ester | 4.30 mmol, 1.06 g | C(C)(C)(C)OC(NC=1C=CC2=C(SC=C2)C1)=O | C13H15NO2S
reactant | Lithium diisopropylamine | 2.0 M, 8.5 mL | C(C)(C)NC(C)C.[Li]
reactant | triisopropylborate | 26 mmol, 6.0 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | 2,4-dichloro-5-methylpyrimidine | 4.5 mmol, 0.74 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | sodium carbonate | 2.0 N, 9.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 0.220 mmol, 120 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium (II) acetate | 0.220 mmol, 50.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 mL | O | H2O
product | [2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-carbamic acid tert-butyl ester | 0.32 g, 20% yield | C(C)(C)(C)OC(NC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1)=O | C18H18ClN3O2S
